US04329347
5-(4-Phenylsulfonyl-butoxy)-carbostyril
100 mgm of 5-(4-phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril were refluxed with 30 mgm of palladium-on-charcoal and 1 ml of mesitylene. After 3.5 hours, another 30 mgm of palladium-on-charcoal were added, and the mixture was heated for 9 hours more. Subsequently, the reaction mixture was filtered while still hot, the filtrate was evaporated, and the residue was chromatographed on a silica gel column with a mixture of benzene/ethanol/conc. ammonia=75/25/3. Besides unreacted starting material, 9 mgm of 5-(4-phenylsulfonyl-butoxy)-carbostyril were obtained.

reactant | 5-(4-phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC1=C2CCC(NC2=CC=C1)=O | C19H21NO4S
reactant | mesitylene | 1 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 5-(4-Phenylsulfonyl-butoxy)-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC1=C2C=CC(NC2=CC=C1)=O | C19H19NO4S
